US08097637B2
Step 2: (4-Hydroxy-4-methyl-cyclohexyl)-acetic acid
Prepared using an excess of MeMgBr (26 mmol) in THF (20 ml) with (4-Oxo-cyclohexyl)-acetic acid (13 mmol) as described on Journal of American Society 93 (1), 1971, 121-129.

reactant | MeMgBr | 26 mmol | C[Mg+].[Br-]
reactant | (4-Oxo-cyclohexyl)-acetic acid | 13 mmol | O=C1CCC(CC1)CC(=O)O | C8H12O3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (4-Hydroxy-4-methyl-cyclohexyl)-acetic acid | OC1(CCC(CC1)CC(=O)O)C | C9H16O3
